US06656971B2
1-(3,5-Dichlorophenyl)-3-[3-(3,5-dichlorobenzyloxy)-4-methoxyphenyl]urea (Exemplary Compound 28).
To a stirred solution of 3-[(3,5-dichlorophenyl)methoxy]-4-methoxyphenylamine (0.596 g, 2 mmol) in dichloromethane (30 mL) was added 3,5-dichlorophenylisothiocyanate (0.408 g, 2 mmol) in one portion. Stirring was continued overnight. Water (100 mL) was added to the mixture, and after extraction and separation of organic layer the solvent was evaporated in vacuo to give a solid, which was triturated with a mixture diethyl ether:hexanes and filtered. Yield 0.273 g (27%). White micro-crystals, m.p. 154-155° C. (dec.); 1H NMR (DMSO-d6, 400 MHz) 9.67 (s, 1H); 9.74 (s, 1H); 7.59 (s, 2H); 7.53 (s, 1H); 7.48 (s, 2H); 7.30 (s, 1H); 7.11 (s, 1H); 7.00 (d, J=8.5 Hz, 1H), 6.92 (dd, J=9.0 and 2.5 Hz, 1H); 5.10 (s, 2H); 3.79 (s, 3H). Anal: Calcd for: C, 50.22; H, 3.21; N, 5.58. Found: C, 50.50; H, 3.45; N, 5.56.

reactant | 3-[(3,5-dichlorophenyl)methoxy]-4-methoxyphenylamine | 2 mmol, 0.596 g | ClC=1C=C(C=C(C1)Cl)COC=1C=C(C=CC1OC)N | C14H13Cl2NO2
reactant | 3,5-dichlorophenylisothiocyanate | 2 mmol, 0.408 g | ClC=1C=C(C=C(C1)Cl)N=C=S | C7H3Cl2NS
reactant | Water | 100 mL | O | H2O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-(3,5-Dichlorophenyl)-3-[3-(3,5-dichlorobenzyloxy)-4-methoxyphenyl]urea | ClC=1C=C(C=C(C1)Cl)NC(=O)NC1=CC(=C(C=C1)OC)OCC1=CC(=CC(=C1)Cl)Cl | C21H16Cl4N2O3
